US05948785
To a solution of the target compound in step (2) (7.16 g, 28.5 mmol) in dichloromethane (85 mL) were added successively triethylamine (15.8 mL, 113.9 mmol) and a solution of sulfur trioxidepyridine complex (18.1 g, 113.9 mmol) in dimethylsulfoxide (85 mL). The resulting mixture was stirred at room temperature for 15 min, poured into a mixture of ice and saturated brine (300 mL), and then extracted with cold ether. The organic layer was washed successively with cold 10% aqueous citric acid solution and cold saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated and hexane was added to the obtained residue to suspend same. Insolubles were collected by filtration to give 6.41 g (90%) of N-tert-butoxycarbonylphenylalaninal. To a suspension of zinc powder (5.59 g, 85.5 mmol) in THF (1 mL) was added dropwise a solution of the above-mentioned N-tert-butoxycarbonylphenylalaninal (6.41 g, 25.7 mmol) and ethyl bromodifluoroacetate (11.1 mL, 85.5 mmol) in THF (16 mL) with ultrasonication. After 3 hr of ultrasonication, dichloromethane (200 mL) and 1N aqueous potassium hydrogensulfate solution (100 mL) were added. The organic layer was separated and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was separated and purified by silica gel column chromatography (hexane-ethyl acetate, 75:25) to give 2.60 g (27%) of ethyl 4(S)-[(tert-butoxycarbonyl)amino]-2,2-difluoro-3(R)-hydroxy-5-phenylpentanoate as colorless crystals.

reactant | N-tert-butoxycarbonylphenylalaninal | 25.7 mmol, 6.41 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C=O | C14H19NO3
reactant | ethyl bromodifluoroacetate | 85.5 mmol, 11.1 mL | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | potassium hydrogensulfate | 1N, 100 mL | S(=O)(=O)(O)[O-].[K+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
catalyst | zinc | 85.5 mmol, 5.59 g | [Zn] | Zn
product | ethyl 4(S)-[(tert-butoxycarbonyl)amino]-2,2-difluoro-3(R)-hydroxy-5-phenylpentanoate | 2.60 g, 27% | C(C)(C)(C)OC(=O)N[C@H]([C@H](C(C(=O)OCC)(F)F)O)CC1=CC=CC=C1 | C18H25F2NO5
